US06114391
a) Preparation of 4-phenylbutanoyl chloride
4-Phenyl-butanoic acid (0.83 moles, 13.57 g) is added to thionyl chloride (0.114 moles, 8.27 ml) and warmed to dissolve the solid. The mixture is stirred for 30' at r.t., then refluxed for 10', finally recovered as in example 3a). A 100% yield is obtained (0.083 moles, 15.09 g).

reactant | 4-Phenyl-butanoic acid | 0.83 moles, 13.57 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | thionyl chloride | 0.114 moles, 8.27 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-phenylbutanoyl chloride | 100% yield | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
